US04312870
The mixture of 3.5 g of ethyl 4-(2,4-dichlorophenyl-hydrazino)-quinolin-3-carboxylate and 40 ml of eutectic diphenyl ether-biphenyl is heated to 175° for 4 hours, cooled to room temperature and diluted with diethyl ether. The resulting suspension is filtered, the residue washed with diethyl ether and dissolved in N aqueous sodium hydroxide. The solution is washed with diethyl ether, its pH adjusted to 8.5 with ammonium chloride and the precipitate formed collected. It is washed successively with hot water, methanol and diethyl ether, to yield the 2-(2,4-dichlorophenyl)-pyrazolo[4,3-c]-quinolin-3(5H)-one, showing peaks in the IR-spectrum at 890, 867, 845, 832, 816, 796, 775, 767, 756, 730 and 701 cm-1.

reactant | ethyl 4-(2,4-dichlorophenyl-hydrazino)-quinolin-3-carboxylate | 3.5 g | ClC1=C(C=CC(=C1)Cl)NNC1=C(C=NC2=CC=CC=C12)C(=O)OCC | C18H15Cl2N3O2
reactant | diphenyl ether biphenyl | 40 ml | C1(=CC=CC=C1)OC1=CC=CC=C1.C1(=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(2,4-dichlorophenyl)-pyrazolo[4,3-c]-quinolin-3(5H)-one | ClC1=C(C=CC(=C1)Cl)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C16H9Cl2N3O
